US09353084B2
(6R)-6-(5-Amino-2-fluorophenyl)-3,5,5-trifluoro-3,6-dimethylpiperidin-2-one (1.73 g, 5.96 mmol) (1:1.8 mixture of diastereomers) was placed in a round bottom flask and a solution of di-tert-butyl dicarbonate (1.56 g, 7.15 mmol) in tetrahydrofuran (25 ml) (dried over 4 Å MS) was added. The solution was heated to 50° C. and stirred at this temperature overnight. The reaction was concentrated under reduced pressure and the crude material was purified using a CombiFlash system (80 g SiO2, gradient elution; heptanes: ethyl acetate 100:0→50:50) to afford tert-butyl (4-fluoro-3-((2R)-3,3,5-trifluoro-2,5-dimethyl-6-oxopiperidin-2-yl)phenyl)carbamate (2.1 g, 5.38 mmol, 90% yield) (1:1.7 mixture of diastereomers) LC-MS Major: (m/z) 335.0 (MH+-tert-butyl) tR=0.74 minutes (Method B); Minor: (m/z) 391.2 (MH+) tR=0.76 minutes (Method B).

reactant | (6R)-6-(5-Amino-2-fluorophenyl)-3,5,5-trifluoro-3,6-dimethylpiperidin-2-one | 5.96 mmol, 1.73 g | NC=1C=CC(=C(C1)[C@@]1(C(CC(C(N1)=O)(C)F)(F)F)C)F | C13H14F4N2O
reactant | di-tert-butyl dicarbonate | 7.15 mmol, 1.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | tert-butyl (4-fluoro-3-((2R)-3,3,5-trifluoro-2,5-dimethyl-6-oxopiperidin-2-yl)phenyl)carbamate | 5.38 mmol, 2.1 g, 90% yield | FC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)[C@]1(NC(C(CC1(F)F)(C)F)=O)C | C18H22F4N2O3
